US07629358B2
Preparation 66: ethyl(3-{2-[((2R)-2-[4-(benzyloxy)-3-(hydroxymethyl)phenyl]-2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)amino]-2-methylpropyl}phenyl)acetate
Prepared according to the procedure used for preparation 22 using [2-(benzyloxy)-5-((1R)-2-bromo-1-{[tert-butyl(dimethyl)silyl]oxy}ethyl)phenyl]methanol (Preparation 23) and [3-(2-amino-2-methyl-propyl)-phenyl]-acetic acid ethyl ester (Preparation 47) to give the title compound as a yellow oil. 1H NMR (400 MHz, CD3OD): δ=7.48-7.05 (11H, m), 7.04-6.96 (1H, d), 5.10 (2H, s), 4.80-4.74 (1H, m), 4.78-4.63 (2H, q), 4.16-4.05 (2H, q), 3.60 (2H, s), 2.89-2.63 (2H, m), 2.70-2.62 (2H, m), 1.24-1.20 (3H, t), 1.07-1.04 (6H, d), 0.81 (9H, s), 0.00 (3H, s), -0.18 (3H, s) ppm. LRMS (electrospray): m/z [M+H]+ 606, [M−H]− 604.

reactant | [2-(benzyloxy)-5-((1R)-2-bromo-1-{[tert-butyl(dimethyl)silyl]oxy}ethyl)phenyl]methanol | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H](CBr)O[Si](C)(C)C(C)(C)C)CO | C22H31BrO3Si
reactant | [3-(2-amino-2-methyl-propyl)-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC=C1)CC(C)(C)N)=O | C14H21NO2
product | ethyl(3-{2-[((2R)-2-[4-(benzyloxy)-3-(hydroxymethyl)phenyl]-2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)amino]-2-methylpropyl}phenyl)acetate | C(C)OC(CC1=CC(=CC=C1)CC(C)(C)NC[C@H](O[Si](C)(C)C(C)(C)C)C1=CC(=C(C=C1)OCC1=CC=CC=C1)CO)=O | C36H51NO5Si
